US07244776B2
N-(4-dodecyloxyphenyl)-N′-(4-phenyloxyphenyl)oxalamide
A solution of N-(4-dodecyloxyphenyl)oxalamic acid ethyl ester (10 g, 0.026 mol), 4-phenoxyaniline (5 g, 0.026 mol) and lithium t-butoxide (0.2 g, 0.0026 mol) in xylene (50 mL) isheated to gentle reflux. A distillate of ethanol/xylene is slowly collected; the reaction volume is kept at 50 mL by adding xylene. Heating and distillation continued for 3 hours. The reaction mixture is cooled, the solids are collected and washed sequentially with warm ethyl acetate, ethanol, water and finally ethanol. There is obtained 11.5 g white solid mp: 179–181.

reactant | N-(4-dodecyloxyphenyl)oxalamic acid ethyl ester | 0.026 mol, 10 g | C(C)OC(C(=O)NC1=CC=C(C=C1)OCCCCCCCCCCCC)=O | C22H35NO4
reactant | 4-phenoxyaniline | 0.026 mol, 5 g | O(C1=CC=CC=C1)C1=CC=C(N)C=C1 | C12H11NO
reactant | lithium t-butoxide | 0.0026 mol, 0.2 g | CC(C)([O-])C.[Li+]
solvent | xylene | 50 mL | C=1(C(=CC=CC1)C)C | C8H10
product | N-(4-dodecyloxyphenyl)-N′-(4-phenyloxyphenyl)oxalamide | 11.5 g | C(CCCCCCCCCCC)OC1=CC=C(C=C1)NC(C(=O)NC1=CC=C(C=C1)OC1=CC=CC=C1)=O | C32H40N2O4
